US08530517B2
K2CO3 (265 mg, 1.92 mmol) was added to a solution of (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)-acrylic acid methyl ester (250 mg, 0.64 mmol) in DMF (2.5 ml) and the mixture was stirred at RT for 30 min. 4-(2-Chloroethyl)-morpholine hydrochloride (155 mg, 0.83 mmol) was added and the solution was heated to 60° C. for 14 h. The reaction was quenched by addition of water and was extracted with EtOAc. The organic layer was washed with a saturated solution of NaHCO3, water and brine, dried over Na2SO4 and evaporated under reduced pressure to obtain (E)-3-[3′-adamantan-1-yl-4′-(2-morpholin-4-yl-ethoxy)biphenyl-4-yl]-acrylic acid methyl ester (193 mg, 60%) after purification on silica gel (EtOAc:hexane 50:50).

reactant | K2CO3 | 1.92 mmol, 265 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)-acrylic acid methyl ester | 0.64 mmol, 250 mg | COC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)O)C12CC3CC(CC(C1)C3)C2)=O | C26H28O3
reactant | 4-(2-Chloroethyl)-morpholine hydrochloride | 0.83 mmol, 155 mg | Cl.ClCCN1CCOCC1
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | (E)-3-[3′-adamantan-1-yl-4′-(2-morpholin-4-yl-ethoxy)biphenyl-4-yl]-acrylic acid methyl ester | 193 mg, 60% | COC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)OCCN1CCOCC1)C12CC3CC(CC(C1)C3)C2)=O | C32H39NO4
